US09023847B2
15. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(1H-imidazol-4-yl)-ethyl]-amide
This compound was prepared in an analogous manner as 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester using histamine instead of 1-BOC-3-aminopyrrolidine. LCMS (ESI) 353 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.69-11.97 (1H, m) 11.52 (1H, br. s.) 10.35 (1H, s) 8.24 (1H, br. s.) 8.02 (1H, d, J=5.37 Hz) 7.77 (1H, d, J=5.47 Hz) 7.44-7.54 (2H, m) 7.31 (1H, dd, J=3.32, 2.83 Hz) 6.88 (1H, br. s.) 6.82 (1H, d, J=5.37 Hz) 6.44 (1H, dd, J=3.47, 1.71 Hz) 3.41-3.52 (2H, m) 2.71 (2H, t, J=6.98 Hz)

reactant | 3-{[3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carbonyl]-amino}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C21H25N5O3S
reactant | histamine | NCCC1=CNC=N1 | C5H9N3
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid [2-(1H-imidazol-4-yl)-ethyl]-amide | N1C=NC(=C1)CCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C17H16N6OS
